US09284321B2
To a stirred mixture of sodium hydride [disp. 55-65%] (175 mg, 4.37 mmol) in DMF (5.6 ml) was added drop wise at room temperature under argon atmosphere a solution of commercially available ethyl 7-bromo-5-fluoro-1H-indole-2-carboxylate [CAS No. 396076-60-1] (1.04 g, 3.64 mmol) in DMF (2.8 ml). Afterwards the mixture was allowed to stir for 5 min at room temperature, then commercially available 2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester [CAS No. 459817-82-4] (975 mg, 4.37 mmol) was added and the solution was allowed to stir at room temperature for 15 h. The solution was cooled in an ice bath, and citric acid (10%, 62 ml) was added drop wise. The mixture was allowed to stir at room temperature for 1 h, and was afterwards extracted with ethyl acetate (2×70 ml). The combined organic layers were washed with brine (80 ml), dried (MgSO4) and evaporated. The crude material (2.04 g) was purified by flash chromatography on silica gel (heptan/ethyl acetate 0-80%) to yield 7-bromo-1-(2-tert-butoxycarbonylamino-ethyl)-5-fluoro-1H-indole-2-carboxylic acid ethyl ester as a light yellow oil (1.37 g, 88%), MS (ISN) m/z=431.2 [(M+H)+].

reactant | sodium hydride | 4.37 mmol, 175 mg | [H-].[Na+]
reactant | ethyl 7-bromo-5-fluoro-1H-indole-2-carboxylate | BrC=1C=C(C=C2C=C(NC12)C(=O)OCC)F | C11H9BrFNO2
reactant | 2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(OCC1)(=O)=O | C7H13NO5S
reactant | citric acid | 62 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 5.6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2.8 ml | CN(C)C=O | C3H7NO
product | 7-bromo-1-(2-tert-butoxycarbonylamino-ethyl)-5-fluoro-1H-indole-2-carboxylic acid ethyl ester | 1.37 g, 88% | C(C)OC(=O)C=1N(C2=C(C=C(C=C2C1)F)Br)CCNC(=O)OC(C)(C)C | C18H22BrFN2O4
